US04169141
F. t-Butoxycarbonyl-glycyl-glycyl-glycine
Add to a solution of t-butoxycarbonyl-glycyl-glycyl-glycine methyl ester (4.1 g.) in tetrahydrofuran (30 ml.) and water (30 ml.) dropwise with stirring 1 N sodium hydroxide (13.6 ml.). Stir the reaction mixture for 16 hours, acidify to pH 3 with dilute hydrochloric acid and then evaporate to dryness under reduced pressure. Suspend the residue in acetone, filter and evaporate the filtrate to dryness to afford the title product (m.p. 115°-120° C.).

reactant | t-butoxycarbonyl-glycyl-glycyl-glycine methyl ester | 4.1 g | COC(CNC(CNC(CNC(=O)OC(C)(C)C)=O)=O)=O | C12H21N3O6
reactant | sodium hydroxide | 1 N, 13.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | t-Butoxycarbonyl-glycyl-glycyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)NCC(=O)O | C11H19N3O6
